US08076502B2
15 mg of lithium hydroxide monohydrate was added to 131 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester 6-ethyl ester dissolved in 2 mL of tetrahydrofuran and 1 mL of water, and the mixture was stirred for 1.5 hours at room temperature. After 2 mL of 1N hydrochloric acid was added thereto, the reaction solution was concentrated under reduced pressure, and the obtained residue was purified by reverse phase chromatography (Wako gel 50C18 (made by Wako Pure Chemical Industries Ltd.) eluent: water to a 40% acetonitrile solution), thereby yielding 37 mg of (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester.

reactant | lithium hydroxide monohydrate | 15 mg | O.[OH-].[Li+]
reactant | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester 6-ethyl ester | 131 mg | C(C)OC(=O)[C@]1([C@@H]2C[C@H]([C@]([C@H]12)(C(=O)OC(C)CC)N)OCC1=CC(=C(C=C1)Cl)Cl)F | C21H26Cl2FNO5
reactant | hydrochloric acid | 1N, 2 mL | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (1R,2R,3R,5R,6R)-2-amino-3-(3,4-dichlorobenzyloxy)-6-fluorobicyclo[3.1.0]hexane-2,6-dicarboxylic acid 2-butyl ester | 37 mg | CC(CC)OC(=O)[C@]1([C@@H]2[C@]([C@@H]2C[C@H]1OCC1=CC(=C(C=C1)Cl)Cl)(C(=O)O)F)N | C19H22Cl2FNO5
